US08030306B2
4-(3-(aminomethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile
To a round bottom flask was added tert-butyl 2-(2-(4-(4-chlorophenyl) -5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)hydrazinyl)-2-oxoethylcarbamate (54 mg, 0.0808 mmol), acetonitrile (3 ml), and tetra-chloro-1,2-dibromo-ethane (58 mg, 0.178 mmol). The reaction was cooled to 0° C. Triphenylphosphine (47 mg, 0.178 mmol) was then added and the reaction was stirred at 0° C. for 5 min. After this time, Et3N (0.05 ml, 0.356 mmol) was added to the reaction. The reaction was slowly warmed up to rt and stirred for 16 hrs. After this time, the reaction was diluted with EtOAc (25 ml). The resulting solution was washed with water (2×20 ml) and saturated NaCl (20 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (8 gm silica gel) eluting with a gradient of 20%-80% EtOAc/Hex to give the cyclized intermediate. This material was then dissolved in CH2Cl2(1 ml) and TFA (1 ml) was added. The reaction was stirred at rt for 1 hr. After this time, the solvent was removed. The residue was diluted with EtOAc (20 ml). The resulting solution was washed with saturated NaHCO3(20 ml), water (10 ml) and saturated NaCl (10 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (4 g silica gel) eluting with a gradient of 100% EtOAc and then 5% MeOH/CH2Cl2 to give product as a white solid (15 mg, 34% yield).

reactant | tert-butyl 2-(2-(4-(4-chlorophenyl) -5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)hydrazinyl)-2-oxoethylcarbamate | 0.0808 mmol, 54 mg | ClC1=CC=C(C=C1)C=1C(=NN(C(C1C1=CC=C(C=C1)C#N)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)NNC(CNC(OC(C)(C)C)=O)=O | C32H29ClF3N7O4
reactant | tetra-chloro-1,2-dibromo-ethane | 0.178 mmol, 58 mg | ClC(C(Br)(Cl)Cl)(Br)Cl | C2Br2Cl4
reactant | Triphenylphosphine | 0.178 mmol, 47 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et3N | 0.356 mmol, 0.05 ml | CCN(CC)CC | C6H15N
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-(3-(aminomethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 15 mg, 34% yield | NCC1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C#N)C=C2)=O)CC=2C(=NC(=CC2)C(F)(F)F)C | C27H19ClF3N7O
